US05250547
A suspension containing 6-bromo-2,2,3-trimethyl-2H-1-benzopyran (38.0 g, 0.15 mol), potassium trifluoroacetate (62.0 g, 0.408 mol) and cuprous iodide (57.0g, 0.30 mol) in dimethylformamide (530 ml) and toluene (225 ml) was heated under nitrogen until a total of 70 ml of toluene was collected by distillation. Toluene was distilled off until the temperature of the reaction mixture reached 140° C. After a further four hours at this temperature the mixture was cooled to room temperature, water and diethyl ether were added, and the organic phase separated and evaporated under reduced pressure. The residue was chromatographed on silica gel, eluting with heptane to give 18.82 g of 6-trifluoromethyl-2,2,3-trimethyl-2H-1-benzopyran as an oil, ms 242 (M+).

reactant | 6-bromo-2,2,3-trimethyl-2H-1-benzopyran | 0.15 mol, 38.0 g | BrC=1C=CC2=C(C=C(C(O2)(C)C)C)C1 | C12H13BrO
reactant | potassium trifluoroacetate | 0.408 mol, 62.0 g | FC(C(=O)[O-])(F)F.[K+]
solvent | dimethylformamide | 530 ml | CN(C=O)C | C3H7NO
solvent | toluene | 225 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 6-trifluoromethyl-2,2,3-trimethyl-2H-1-benzopyran | 18.82 g | FC(C=1C=CC2=C(C=C(C(O2)(C)C)C)C1)(F)F | C13H13F3O
